US06329405B1
(23b) 3-{[(S)-1-Phenylethylamino]-4-pyridylmethyl}phenylamine
In a similar manner to that described in Example (1b), isomer B of N-[(3-nitrophenyl)-4-pyridylmethyl]-[(S)-1-phenylethyl]amine (1.02 g), nickel chloride hexahydrate (1.47 g) and sodium borohydride (470 mg) were reacted, to afford isomer B of the title compound (694 mg) as a pale yellow oil.

reactant | N-[(3-nitrophenyl)-4-pyridylmethyl]-[(S)-1-phenylethyl]amine | 1.02 g | [N+](=O)([O-])C=1C=C(C=CC1)C(N[C@@H](C)C1=CC=CC=C1)C1=CC=NC=C1 | C20H19N3O2
reactant | sodium borohydride | 470 mg | [BH4-].[Na+]
catalyst | nickel chloride hexahydrate | 1.47 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 3-{[(S)-1-Phenylethylamino]-4-pyridylmethyl}phenylamine | 694 mg | C1(=CC=CC=C1)[C@H](C)NC(C=1C=C(C=CC1)N)C1=CC=NC=C1 | C20H21N3
